US04218461
B. 4,6-Dichloro-3-(2,4-dichlorophenyl)-2,3-dihydro-2-[(1H-imidazol-1-yl)-methylene]-1H-inden-1-one
11.2 g of 4,6-dichloro-3-(2,4-dichlorophenyl)-2,3-dihydro-2-(hydroxymethylene)-1H-inden-1-one (0.03 mol) are suspended in 150 ml of benzene. After addition of 5.4 g of carbonyl-bis-imidazole (0.033 mol) both reaction components dissolve at room temperature. Stirring is continued at room temperature for about 2 hours. The precipitated product is worked up as described in Example 1B, m.p. 194°-196° C. (absolute ethanol); yield 5.9 g. An additional crop of 4.0 g (m.p. 193°-195° C.) is obtained by evaporation of the mother liquor and treatment of the residual product with water and ether. Total yield 9.9 g (78%).

reactant | 4,6-dichloro-3-(2,4-dichlorophenyl)-2,3-dihydro-2-(hydroxymethylene)-1H-inden-1-one | 0.03 mol, 11.2 g | ClC1=C2C(C(C(C2=CC(=C1)Cl)=O)=CO)C1=C(C=C(C=C1)Cl)Cl | C16H8Cl4O2
reactant | carbonyl-bis-imidazole | 0.033 mol, 5.4 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | ethanol | C(C)O | C2H6O
reactant | water | O | H2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | 4,6-Dichloro-3-(2,4-dichlorophenyl)-2,3-dihydro-2-[(1H-imidazol-1-yl)-methylene]-1H-inden-1-one | ClC1=C2C(C(C(C2=CC(=C1)Cl)=O)=CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | C19H10Cl4N2O
